US08604023B2
7-Chloro-3-(2-chlorobenzyl)-1-cyclopropyl-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione
2-Amino-3-(2-chlorophenyl)propanoic acid hydrochloride (4.97 g, 1 eq) was dissolved in water/acetonitrile (84 mL/84 mL) and triethylamine (5.91 mL, 2 eq) was then added. 1-Cyclopropyl-5-chloroisatoic anhydride (5.00 g, 1 eq) was then added in about 10 portions giving time between each addition for the previous portion to dissolve. After all of the anhydride was added the reaction was stirred at room temperature overnight. Any solids present after reaction were filtered off. The filtrate was concentrated in vacuo, azeotroped with acetonitrile, re-dissolved in AcOH (210 mL) and heated to 130° C. for 6 h. The crude mixture was then concentrated, and the residue was washed with NaHCO3(aq), stirring the mixture for a while before collecting the solid by filtration. The crude product was chromatographed (gradient: 3:1 hex:EtOAc to EtOAc) delivering the product (126 mg, 2% yield).

reactant | 2-Amino-3-(2-chlorophenyl)propanoic acid hydrochloride | 4.97 g, 1 eq | Cl.NC(C(=O)O)CC1=C(C=CC=C1)Cl
reactant | triethylamine | 5.91 mL, 2 eq | C(C)N(CC)CC | C6H15N
reactant | 1-Cyclopropyl-5-chloroisatoic anhydride | 5.00 g, 1 eq | C1(CC1)C12C(=O)OC(NC1C=CC(=C2)Cl)=O | C11H10ClNO3
solvent | water acetonitrile | 84 mL | O.C(C)#N
product | 7-Chloro-3-(2-chlorobenzyl)-1-cyclopropyl-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione | 126 mg, 2% yield | ClC1=CC2=C(N(C(C(NC2=O)CC2=C(C=CC=C2)Cl)=O)C2CC2)C=C1 | C19H16Cl2N2O2
